US08633173B2
N-{3-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-acetamide was prepared from 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (70.6 mg, 0.245 mmol) and N-(3-bromo-phenyl)-acetamide (52.4 mg, 0.245 mmol) in a manner analogous to Example 2d. Product isolated as a white lyophilate (19 mg, 18%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.89 (s, 1H), 9.77 (s, 1H), 8.83 (d, J=6.5 Hz, 1H), 8.46 (d, J=8.4 Hz, 2H), 8.07 (d, J=8.6 Hz, 2H), 7.99-7.95 (m, 2H), 7.40 (d, J=8.0 Hz, 1H), 7.21-7.12 (m, 3H), 3.29 (s, 3H), 2.06 (s, 3H). MS=422 (MH)+.

reactant | 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.245 mmol, 70.6 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | N-(3-bromo-phenyl)-acetamide | 0.245 mmol, 52.4 mg | BrC=1C=C(C=CC1)NC(C)=O | C8H8BrNO
product | N-{3-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-acetamide | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=C(C=CC2)NC(C)=O | C21H19N5O3S
